US05869485
5-(4-Hydroxy-3-methylphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine
0.4 g of 5-(4-benzyloxy-3-methylphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine are hydrogenated in a hydrogen atmosphere at normal pressure and about 40° C. for 10 h in 20 ml of THF and 10 ml of ethanol in the presence of 0.2 g of 5% palladium/carbon. After filtration through Celite and crystallization of the residue from methylene chloride, 5-(4-hydroxy-3-methylphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-aminopyrrolo[2,3-d]pyrimidine having an m.p. of 202°-204° C. is obtained.

reactant | 5-(4-benzyloxy-3-methylphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine | 0.4 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2)C | C31H28N6O2
reactant | hydrogen | [H][H] | H2
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | palladium/carbon | 0.2 g | [Pd] | Pd
product | 5-(4-Hydroxy-3-methylphenyl)-7-[3-(2-(1-imidazolyl)ethoxy)phenyl]-4-amino-pyrrolo[2,3-d]pyrimidine | OC1=C(C=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2=CC(=CC=C2)OCCN2C=NC=C2)C | C24H22N6O2
